US06194409B1
A mixture of 2.90 mL of 4-hydroxy-tetrahydropyran in 30 mL of dry N,N-dimethylformamide was added dropwise to a stirred suspension of 0.84 g of sodium hydride (95%, dispersion in mineral oil) in 30 mL of dry N,N-dimethylformamide at 5° C. The resulting clear solution was allowed to come to room temperature and stirring was continued for 24 hours, followed by dropwise addition of 9.40 g of 4-bromo-benzylbromide in 50 mL of dry N,N-dimethylformamide at 5° C. and stirring at room temperature for 24 hours. The mixture was poured into water and extracted with ethyl acetate. The combined extracts were washed with water and brine, dried (sodium sulfate), and concentrated. The residue was purified by silica chromatography (isohexane/ethyl acetate=9/1, 8/2, 7/3, 6/4 v/v) yielding 5.40 g of 4-(4-bromo-benzyloxy)-tetrahydropyran as an oil. EI-MS: 270 (M+).

reactant | 4-hydroxy-tetrahydropyran | 2.90 mL | OC1CCOCC1 | C5H10O2
reactant | sodium hydride | 0.84 g | [H-].[Na+]
reactant | 4-bromo-benzylbromide | 9.40 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-(4-bromo-benzyloxy)-tetrahydropyran | 5.40 g | BrC1=CC=C(COC2CCOCC2)C=C1 | C12H15BrO2
